US09102614B2
Preparation of [1-(4-chlorophenyl)-5-methoxy-3-methylnaphthalen-2-yl]-(4-methoxybenzyloxy)acetic acid ethyl ester:
A solution of (4-methoxy-benzyloxy)-(5-methoxy-3-methyl-1-trifluoromethanesulfonyloxy-naphthalen-2-yl)-acetic acid ethyl ester (128 mg, 0.236 mmol), 4-chlorophenylboronic acid (74 mg, 2 equiv), EtOH (0.5 mL), K2CO3 (2 M, 0.5 mL), and toluene (1.3 mL) were degassed with argon at room temperature in a Schlenk tube. Pd(dppf)Cl2 was then added (17 mg) and the tube sealed. The reaction was heated to 60° C. for 14 hours. Analysis of the reaction mixture by LCMS showed 40% conversion, with visual analysis showing significant amount of palladium black. The crude mixture was filtered via syringe through a microfilter into a new sealable tube charged with Pd(PPh3)4. The tube was sealed and heated to 100° C. for 16 hours. The reaction was cooled to room temperature, diluted with EtOAc and filtered through Celite. The filtrate was concentrated, and the crude residue purified by flash column chromatography to give the desired product (60 mg, 50% yield). LCMS-ESI+ (m/z): [M+Na]+ calcd for C30H29ClNaO5: 527.99. Found: 527.44.

reactant | (4-methoxy-benzyloxy)-(5-methoxy-3-methyl-1-trifluoromethanesulfonyloxy-naphthalen-2-yl)-acetic acid ethyl ester | 0.236 mmol, 128 mg | C(C)OC(C(C1=C(C2=CC=CC(=C2C=C1C)OC)OS(=O)(=O)C(F)(F)F)OCC1=CC=C(C=C1)OC)=O | C25H25F3O8S
reactant | 4-chlorophenylboronic acid | 74 mg, 2 equiv | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | EtOH | 0.5 mL | CCO | C2H6O
reactant | K2CO3 | 2 M, 0.5 mL | C(=O)([O-])[O-].[K+].[K+]
catalyst | Pd(dppf)Cl2 | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
catalyst | palladium black | [Pd] | Pd
solvent | toluene | 1.3 mL | C1(=CC=CC=C1)C | C7H8
product | [1-(4-chlorophenyl)-5-methoxy-3-methylnaphthalen-2-yl]-(4-methoxybenzyloxy)acetic acid ethyl ester | 60 mg, 50% yield | C(C)OC(C(OCC1=CC=C(C=C1)OC)C1=C(C2=CC=CC(=C2C=C1C)OC)C1=CC=C(C=C1)Cl)=O | C30H29ClO5
